US04342761
Erythro 2-([2-(1,4-Benzodioxan-2-yl)-2-hydroxyethyl]piperid-4-yl)-1H-isoindole-1,3-(2H)-dione
Erythro, 1-(1,4-benzodioxan-2-yl)-2-bromoethanol (1.29 g, 0.005 m) and 2-(piperid-4-yl)-1H-isoindole-1,3-(2H)dione hydrochloride (1.33 g, 0.005 cm3) in ethanol (75 cm3) with triethylamine (3.03 g, 0.03 cm3) were refluxed for 18 hours. The solution was cooled and the solvent evaporated. the residue was dissolved in chloroform and then washed twice with water, dried (MgSO4) and evaporated. The residue was dissolved in isopropyl alcohol and acidified with ethanolic HCl. The crystallised material was filtered to give the title compound as the hydrochloride salt m.p. 235°-237° C.

reactant | 1-(1,4-benzodioxan-2-yl)-2-bromoethanol | 1.29 g | O1C(COC2=C1C=CC=C2)C(CBr)O | C10H11BrO3
reactant | 2-(piperid-4-yl)-1H-isoindole-1,3-(2H)dione hydrochloride | 0.005 cm3, 1.33 g | Cl.N1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O
reactant | triethylamine | 0.03 cm3, 3.03 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 75 cm3 | C(C)O | C2H6O
product | 2-([2-(1,4-Benzodioxan-2-yl)-2-hydroxyethyl]piperid-4-yl)-1H-isoindole-1,3-(2H)-dione | O1C(COC2=C1C=CC=C2)C(CN2CCC(CC2)N2C(C1=CC=CC=C1C2=O)=O)O | C23H24N2O5
